US07067540B2
Preparation of 4-([4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]methyl}benzonitrile.
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one(1.0 g, 3.6 mmol) was dissolved in N,N-dimethylformamide (5 mL). α-Bromo-p-tolunitrile (0.85 g, 4.3 mmol) was added followed by K2CO3 (0.59 g, 4.3 mmol). The resulting mixture was heated to 80° C. for 16 h. The reaction was concentrated to an oil that was partitioned between water and ethyl acetate and extracted with ethyl acetate (3×100 ml). The organic extracts were combined, washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated to an oil, and purified by chromatography (silica gel, hexane/ethyl acetate) to yield a white solid (0.65 g, 46%). 1H NMR (400 MHz, CDCl3) δ 7.62 (d, J=8.4 Hz, 2H), 7.41-7.31 (m, 7H), 7.23 (d, J=7.6 Hz, 1H), 6.11 (d, J=8.0 Hz, 1H), 5.24 (s, 2H), 5.18 (s, 2H). ES HRMS m/z 395.0404 (M+H C20H15BrN2O2 requires 395.0390).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 3.6 mmol, 1.0 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | α-Bromo-p-tolunitrile | 4.3 mmol, 0.85 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | K2CO3 | 4.3 mmol, 0.59 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-([4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]methyl}benzonitrile | 0.65 g, 46% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)CC1=CC=C(C#N)C=C1)=O)Br | C20H15BrN2O2
